US04167570
A mixture consisting of 12.3 gm of 6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 120 ml of dimethyl formamide and 3.05 gm of 50% sodium hydride in mineral oil was stirred at 60° C. for 2 hours. Thereafter, 17 gm of 3-(N-ethyl-N-benzyl-amino)-propyl chloride were added dropwise, and the solution was stirred at 120° C. for 2 hours. After evaporating the solution in vacuo, the residue was distilled, yielding 68% of theory of 11-[3-(N-ethyl-N-benzyl-amino)-propyl]-6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one having a b.p. of 236°-238° C. at 0.3 mm Hg.

reactant | 6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 12.3 gm | CC=1C=C(C2=C(NC3=C(N(C2=O)C)C=CC=C3)N1)C | C15H15N3O
reactant | sodium hydride | 3.05 gm | [H-].[Na+]
reactant | 3-(N-ethyl-N-benzyl-amino)-propyl chloride | 17 gm | C(C)N(CC1=CC=CC=C1)CCCCl | C12H18ClN
solvent | dimethyl formamide | 120 ml | CN(C=O)C | C3H7NO
product | 11-[3-(N-ethyl-N-benzyl-amino)-propyl]-6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | C(C)N(CC1=CC=CC=C1)CCCN1C2=C(C(N(C3=C1C=CC=C3)C)=O)C(=CC(=N2)C)C | C27H32N4O
